US05336780
7.4 g (0.028 mol) of 5-amino-1-(3-nitro-benzohydroximoyl)-3-methyl-pyrazole are treated in 90 ml of absolute acetonitrile with 4 ml (0.028 mol) of triethylamine and then, with stirring at room temperature, are treated dropwise with a solution of 5.55 g (0.029 mol) of 4-tosyl chloride in 150 ml of absolute acetonitrile. Stirring is continued for 1 hour and then the mixture is evaporated to dryness. The residue is treated with water and ethyl acetate, the organic phase is washed with water, dried over magnesium sulphate and evaporated under vacuum. The oily residue obtained in this way is crystallised from ethanol. 8.5 g (72%) of 5-amino-3-methyl-1-(O-tosyl-3-nitrobenzohydroximoyl)-pyrazole with a m. pt. of 156°-158° C. are obtained. The substance is light-sensitive. On recrystallising twice from ethanol, the m. pt. is 165°-169° C.

reactant | 5-amino-1-(3-nitro-benzohydroximoyl)-3-methyl-pyrazole | 0.028 mol, 7.4 g | NC1=CC(=NN1C(C1=CC(=CC=C1)[N+](=O)[O-])=NO)C | C11H11N5O3
reactant | triethylamine | 0.028 mol, 4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-tosyl chloride | 0.029 mol, 5.55 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 5-amino-3-methyl-1-(O-tosyl-3-nitrobenzohydroximoyl)-pyrazole | 8.5 g, 72% | NC1=CC(=NN1C(C1=CC(=CC=C1)[N+](=O)[O-])=NOS(=O)(=O)C1=CC=C(C)C=C1)C | C18H17N5O5S
